Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None this hospitalization

 
History of Present Illness:
The patient is a ___ year-old male with a ___ history significant 
for asthma (requiring prior hospitalization but not intubation), 
allergic bronchopulmonary aspergillosis, and post-streptococcal 
glomerlonephritis who presents with 1-day history of fever, 
chills, cough, myalgias, tachypnea, and chest pain without 
radiation. 
.
His symptoms started 3-days ago with URI symptoms including 
cough, rhinorrhea, and nasal congestion. The morning of 
admission, he felt much worse with increased SOB, chest pain, 
sore throat, chills, and subjective fevers (not measured). He 
felt that he was having an asthma flare. He has had similar 
symptoms leading to hospitalization in the past, most recently 
at ___ last year. He denies any diarrhea, nausea, vomiting, 
constipation or abdominal pain. He denies any recent sick 
contacts, or travel. He was brought to the ___ ED by EMS and 
was given Aspirin 324 mg PO.  
.  
Initial vital signs in the ED were T 98.6, HR 138, BP 114/87, RR 
30, and SpO2 98% on RA. CBC showed HCT 41.8% and WBC 10.3 with 
88.8% neutrophils, no bands, and 7.7% lymphocytes. Chem-7 was 
notable for a bicarb 26, AG 13, and Cr 1.4 (with unknown 
baseline). He had a lactate 3.0 and a negative initial Troponin. 
EKG showed sinus tachycardia at 138, NA, NI, poor R-wave 
progression, TWF in III and aVF, no EKG prior available. His CXR 
showed low lung volumes with no acute process. CTA chest showed 
pulmonary hypertension but no pulmonary emolus or pneumonia.  
.  
He was given Ceftriaxone 1g IV, Azithromycin 500 mg IV, 
Methylprednisolone 125 mg IV, Ipratropium and Albuterol nebs, NS 
1L x 2 and Acetaminophen 1000 mg PO. He felt nauseous after one 
of the medications and received Zofran 4 mg IV for symptomatic 
relief. Following his treatments, he was comfortable with a HR 
in the ___ and SpO2 100% RA.  
.  
He was admitted to Medicine for further management of a presumed 
asthma exacerbation. Vitals prior to floor transfer were T 
100.1, HR 94, BP 109/49, RR 21, and SpO2 100% on 2L. Upon 
reaching the floor, he reported feeling somewhat better. He was 
breathing comfortably and denied current chest pain. He still 
felt generally unwell with URI symptoms and occasional cough.
 
Past Medical History:
PAST MEDICAL & SURGICAL HISTORY:
1. Asthma  (prescribed Montelukast and Budesonide-Formoterol; 
not utilizing any of these medications, no rescue inhaler; 
symptoms ocurring several times a week with exertion, several 
nights weekly, with multiple prior hospitalizations with 
intubation)
2. Allergic Bronchopulmonary Aspergillosis   
3. Post-streptococcal Glomerulonephritis (___) - requiring 
hemodialysis at ___ for 1-week, with recovery
4. Left Shoulder bursitis and tendonitis  
5. Hypercholesterolemia  
6. Positive PPD  
7. Left hip pain (unclear diagnosis) - has utilized a cane for 
ambulation
 
Social History:
___
Family History:
Family history of CAD, HTN, type 2 diabetes mellitus; all of his 
children suffer from reactive airway disease
 
Physical Exam:
VITALS: 99.1 / 96.9  100/50  69  20  96% 3L NC
I/Os: 180 / 800 | 200 + BRP
GENERAL: Appears in no acute distress. Alert and interactive.
HEENT: Normocephalic, atraumatic. EOMI. PERRL. Nares clear. 
Mucous membranes moist. 
NECK: supple without lymphadenopathy. JVD at base of clavicle at 
30-degrees.
___: Regular rate and rhythm, ___ early systolic murmur, no rubs 
or gallops. S1 and S2 normal.
RESP: Decreased breath sounds bilaterally at bases with 
decreased air movement, but without adventitious sounds. No 
wheezing, rhonchi or crackles. Stable inspiratory effort.
ABD: soft, non-tender, non-distended, with normoactive bowel 
sounds. No palpable masses or peritoneal signs. 
EXTR: no cyanosis, clubbing or edema, 2+ peripheral pulses
NEURO: CN II-XII intact throughout. Alert and oriented x 3. DTRs 
2+ throughout, strength ___ bilaterally, sensation grossly 
intact. Gait deferred.
 
Pertinent Results:
URINALYSIS: clear, negative for ___, negative for Nitr, no 
protein
.
MICROBIOLOGY DATA: 
___ Blood cultures (x 2) - pending
___ Urine culture - no growth
.
IMAGING: 
___ CHEST (PORTABLE AP) - Lung volumes are low, with 
crowding of bronchovascular markings. There is no focal 
consolidation. Heart size is normal. There are no significant 
pleural effusions or pneumothorax.
.
___ CTA CHEST W&W/O C&RECON - There is no main, branch, 
lobar, or proximal segmental pulmonary embolus. Main pulmonary 
artery is enlarged to 3.4 cm, suggestive of pulmonary arterial 
hypertension. The left and right branch arteries are also 
dilated, and there is pruning of the distal vasculature. Mild 
irregular central bronchial wall thickening is present, 
compatible with small airways disease. Mild bibasilar 
atelectasis is present, left greater than right. There is no 
evidence of mucus plugging or consolidation. No pleural 
effusions are present. Heart size is at the upper limits of 
normal, without pericardial effusion. The thoracic aorta is 
normal in caliber throughout. Axillary, mediastinal, and hilar 
lymph nodes are not pathologically enlarged. Note is made of a 
moderate sliding hiatal hernia. There is bilateral pectoralis 
muscle hypertrophy.
.
___ 2D-ECHO / TTE - The left atrium and right atrium are 
normal in cavity size. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. Regional left ventricular 
wall motion is normal. Left ventricular systolic function is 
hyperdynamic (EF > 75%). The estimated cardiac index is high 
(>4.0L/min/m2). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. There is no valvular 
aortic stenosis. The increased transaortic velocity is likely 
related to high cardiac output. The mitral valve appears 
structurally normal with trivial mitral regurgitation. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. Mild symmetric left 
ventricular hypertrophy with preserved regional and hyperdynamic 
global left ventricular systolic function.
.
___ 07:30AM BLOOD WBC-11.7* RBC-4.08* Hgb-12.4* Hct-35.9* 
MCV-88 MCH-30.4 MCHC-34.5 RDW-12.3 Plt ___
.
___ 05:34PM BLOOD Neuts-88.8* Lymphs-7.7* Monos-2.4 Eos-0.9 
Baso-0.2
.
___ 07:30AM BLOOD ___ PTT-27.9 ___
.
___ 07:30AM BLOOD Glucose-132* UreaN-16 Creat-1.3* Na-139 
K-4.4 Cl-104 HCO3-25 AnGap-14
.
___ 07:30AM BLOOD ALT-117* AST-97* CK(CPK)-579* AlkPhos-63 
TotBili-0.5
.
___ 07:30AM BLOOD CK-MB-2 cTropnT-<0.01
.
___ 05:34PM BLOOD cTropnT-<0.01
.
___ 07:30AM BLOOD Albumin-3.7 Calcium-8.8 Phos-3.0 Mg-2.2
.
___ 07:25AM BLOOD WBC-12.5* RBC-3.99* Hgb-11.9* Hct-35.0* 
MCV-88 MCH-29.7 MCHC-33.8 RDW-12.4 Plt ___
.
___ 07:25AM BLOOD Glucose-101* UreaN-13 Creat-1.1 Na-141 
K-4.1 Cl-104 HCO3-28 AnGap-13
.
___ 07:30AM BLOOD ALT-117* AST-97* CK(CPK)-579* AlkPhos-63 
TotBili-0.5
.
___ 07:25AM BLOOD Calcium-8.8 Phos-3.5 Mg-2.2
___ 07:30AM BLOOD calTIBC-264 Ferritn-280 TRF-___ with a PMH significant for asthma, allergic bronchopulmonary 
aspergillosis, and post-streptococcal glomerlonephritis who 
presents with several days of URI symptoms and one day of fever, 
chills, cough, myalgias, tachypnea, and chest pain.
.
# ASTHMA EXACERBATION - The patient presented with a defined 
history of asthma which sounds mild-to-moderate and persistent 
based on symptom frequency, with poor preventative medication 
compliance. He has been prescribed long acting B2-agonist 
medication with inhaled corticosteroid and a leukotriene 
inhibitor which he only uses when he expects symptom 
exacerbation, periodically. He has no record of PFTs in our 
system. On admission, give his symptoms, we suspected a 
component of asthma exacerbation triggered by URI symptoms. His 
CXR showed no consolidation or effusion and a CTA chest was 
performed in the ED which showed concern for pulmonary HTN with 
mild left greater than right sided atelectasis without pulmonary 
embolism or consolidation concerning for pneumonia. He was 
placed on supplemental oxygen initially and quickly weaned to 
room air without issues; his oxygen saturations remained > 95% 
on room air the entire admission. His ambulatory saturation was 
94% prior to discharge. He did receive Methylprednisolone 125 mg 
IV x 1 in the ED; and was continued on Prednisone 60 mg PO x 
5-days (start date ___ for asthma exacerbation treatment with 
supplemental Albuterol, ipatropium nebulizers Q4-6H PRN 
wheezing. There were no indications for antibiotics this 
admission and remained afebrile with only a steroid-induced 
leukocytosis without bandemia. His PEF values remained at 
baseline. Given his poor medication compliance regarding asthma 
treatment, we restarted Fluticasone-Salmeterol Diskus (250/50) 1 
puff INH BID and Montelukast Sodium 10 mg PO daily without 
issue. We had our pharmacist discuss treatment compliance with 
him and demonstrate correct MDI device use. He will need 
outpatient monitoring for regimen compliance, possibly PFTs, and 
PEF monitoring. He also had a reassuring infectious work-up 
prior to discharge with a negative U/A, negative CXR as noted 
above and negative blood cultures. 
.
# (?) SUSPECTED PULMONARY HYPERTENSION - The patient presented 
with no history of pulmonary HTN, but his presentation is 
significant for progressive exertional dyspnea with minimal 
activity, associated with fatigue. This has been previously 
attributed to asthma, but we suspect a component of pulmonary 
HTN contributing to symptoms given he was without wheezing on 
exam and asthma would be unusual in this setting. He had no 
prior 2D-Echo studies. Given pulmonary hypertension was 
considered, we pondered possibly etiologies, including: 
connective tissue disorders (scleroderma vs. MCTD - will need 
outpatient lab screening), prior cocaine or substance use (not 
supported by his history), coronary disease (no history of such 
and no left ventricular systolic dysfunction on 2D-Echo) and he 
has no evidence of chronic thromboembolic disease on CT chest 
imaging. We performed a 2D-Echo this admission which was unable 
to evaluate his pulmonary artery pressure, but did note some 
symmetric LV hypertrophy with preserved regional and 
hyperdynamic global LV systolic function and no right 
ventricular dilatation. He will be scheduled for outpatient 
follow-up with Pulmonology to continue this work-up. He may 
require PFTs, polysomnography (to evaluate for OSA given a 
strong clinical story of sleep-disordered breathin). He had a 
negative CTA for thromboembolic disease. Pulmonology may also 
consider HIV screening, ___, ANCA, RF marker screening and may 
consider repeating the 2D-Echo. His oxygen saturations, at rest 
and with ambulation, remained above 94% prior to discharge.
.
# TRANSAMINITIS - The patient presented with unknown baseline 
LFTs, but this admission his AST was 97 and ALT was 117 with 
normal T-bili 0.5 and albumin 3.7, INR 1.1 (overall preserved 
synthetic function of the liver with no sequelae of liver 
disease noted). Possible etiologies included: alcohol abuse 
(AST/ALT ratio not suggestive) vs. hepatitis (serologies sent 
and pending upon discharge) vs. hemochromatosis (iron studies 
reassuring) vs. NASH (HbA1c 5.7% without hyperglycemia or 
evidence of insulin resistance) vs. medication effect. We 
encouraged him to follow-up with his primary care physician 
regarding further evaluation and monitoring.
.  
# CHEST PAIN - He presented with substernal chest discomfort 
that minimally improved with reactive airway disease treatment. 
His initial Troponin was < 0.01 times 2-sets with a flat CK-MB. 
Serial EKGs showed sinus tachycardia with non-specific 
ST-changes and normal sinus rhythm without concern for ischemia, 
respectively. Possible etiologies included: ACS/MI (negative 
cardiac biomarkers and reassuring EKGs) vs. PE (ruled out on CTA 
chest imaging) vs. PTX (no evidence on CXR) vs. musculoskeletal 
(some point tenderness on exam, reproducible) vs. asthma 
(possible component) or pleuritis vs. pericarditis (no EKG 
evidence of such) vs. anxiety. A CXR and chest CTA was negative 
for pulmonary embolus or consolidation, PTX or rib fracture. His 
pain improved with asthma treatment. He also has no prior 
cardiac history of cardiac catheterization procedures and his 
2D-Echo was not suggestive of ischemic cardiomyopathy - he had 
preserved global left ventricular systolic function. He did 
receive Aspirin 324 mg PO x 1 in the ED and his electrolytes 
were optimized. He was monitored via telemetry. He was stable 
prior to discharge.
.  
# ACUTE KIDNEY INJURY - The patient presented with a known, 
remote history of PSGN requiring short term dialysis (at ___), 
but with good recovery of his renal function. His creatinine was 
1.4 on initial labs with unknown baseline, but this likely 
represented mild ___ from volume depletion given his tachycardia 
and elevated lactate 3.0 on arrival. He received 3L NS in the 
ED. U/A showed concentrated urine, but was otherwise 
unremarkable. FeNa 0.4% on admission consistent with pre-renal 
etiology (UNa < 30). We encouraged PO hydration and trended his 
creatinine from 1.4 to 1.1 on discharge. We monitored his urine 
output, electrolytes and avoided nephrotoxins as well as renally 
dosed all his medications.
.  
# LEFT HIP PAIN - He apparently has severe enough left hip pain 
that he has started using a cane over the last few months, but 
this has apparently not been worked-up. It seems to be 
intermittent and localized to the lateral hip in the area of the 
iliac crest without radiation to the groin or tenderness over 
the trochanteric bursa. He has good ROM of the hip without pain 
with active motion. We deferred hip imaging this admission and 
encourage outpatient work-up with possible imaging and ___ 
evaluation.
.
TRANSITION OF CARE ISSUES:
1. Patient dischared with evidence of left greater than right 
lung base atelectasis without consolidation on CT chest imaging. 
Continued palpable chest tightness with negative cardiac work-up 
and reassuring EKGs. Exertional dyspnea improved. Afebrile and 
WBC due to steroid leukocytosis. Low clinical threshold to treat 
with short-course of community-acquired pneumonia treatment if 
clinically declines.
2. At the time of discharge, blood cultures from admission were 
pending.
3. At the time of discharge, hepatitis serologies (including A, 
B and C) were pending and should be followed given his mild 
transaminitis. Iron studies reassuring overall; likely some 
component of iron deficiency anemia.
4. Bedside teaching of metered dose inhalers was provided this 
hospitalization and teaching regarding use of asthma medications 
was provided.
5. Has established follow-up with primary care physician and 
will need outpatient Pulmonology follow-up scheduled. 
Pulmonology will need to pursue further work-up, as needed.
6. Left hip pain stable with cane use to supplement ambulation - 
consider outpatient imaging studies vs. physical therapy 
evaluation.
7. Discharged on 5-day course of oral Prednisone 60 mg PO daily 
with no taper, for asthma exacerbation treatment.
 
Medications on Admission:
1. Montelukast 10 mg PO daily  
2. Budesonide-Formoterol HFA 2 puffs INH BID
 
Discharge Medications:
1. montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
2. fluticasone-salmeterol 250-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).
Disp:*3 Disk with Device(s)* Refills:*0*
3. prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily) for 5 days: Start date ___ end date ___ for a 
total of 5-days.
Disp:*12 Tablet(s)* Refills:*0*
4. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) nebulizer Inhalation every six (6) 
hours as needed for shortness of breath or wheezing.
Disp:*6 treatments* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
1. Asthma exacerbation
2. Pulmonary artery hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Patient Discharge Instructions:
.
You were admitted to the Internal Medicine service at ___ 
___ on ___ regarding management of 
your shortness of breath and chest discomfort. You had a 
2D-echocardiogram (heart ultrasound) that was unable to clarify 
whether you suffer from pulmonary artery hypertension or not and 
this will likely need to be repeated as an outpatient. You will 
follow-up in the Pulmonology clinic regarding future diagnostic 
work-up. You also were treated with steroids and nebulizer 
treatments for management of your asthma symptoms. You were 
notably improved prior to discharge. Your laboratory tests 
showed some elevation in your liver function, so this will be 
monitored as an outpatient as well. 
. 
Please call your doctor or go to the emergency department if:
* You experience new chest pain, pressure, squeezing or 
tightness.
* You develop new or worsening cough, shortness of breath, or 
wheezing.
* You are vomiting and cannot keep down fluids, or your 
medications.
* If you are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include: dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit, or have a 
bowel movement.
* You experience burning when you urinate, have blood in your 
urine, or experience an unusual discharge.
* Your pain is not improving within 12 hours or is not under 
control within 24 hours.
* Your pain worsens or changes location.
* You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
* You develop any other concerning symptoms.
.
CHANGES IN YOUR MEDICATION RECONCILIATION:
.
* Upon admission, we ADDED: 
START: Prednisone 60 mg by mouth daily for 5-days total (start 
___, end date ___
START: Fluticasone-salmeterol (250-50 mcg/dose) Disk with Device 
1 inhaled treatment twice daily 
START: Albuterol sulfate  2.5 mg /3 mL (0.083 %) Solution for 
Nebulization, One nebulizer Inhalation every six hours as needed 
for shortness of breath or wheezing
.
* The following medications were DISCONTINUED on admission and 
you should NOT resume:
DISCONTINUE: Budesonide-Formoterol
.
* You should continue all of your other home medications as 
prescribed, unless otherwise directed above.
 
Followup Instructions:
___